US09415118B2
The conjugates of the present invention can also be prepared by in situ process according to the following procedures. Antibodies (21 clones) were conjugated to DM1 using the sulfosuccinimidyl 4-(N-maleimidomethyl)cyclohexane-1-carboxylate (sulfo-SMCC) linker Stock solutions of DM1 and sulfo-SMCC heterobifunctional linker were prepared in DMA. Sulfo-SMCC and DM1 thiol were mixed together to react for 10 minutes at 25° C. in DMA containing 40% v/v of aqueous 50 mM succinate buffer, 2 mM EDTA, pH 5.0, at the ratio of DM1 to linker of 1.3:1 mole equivalent and a final concentration of DM1 of 1.95 mM. The antibody was then reacted with an aliquot of the reaction to give a mole equivalent ratio of SMCC to Ab of around 6.5:1 under final conjugation conditions of 2.5 mg/mL of Ab in 50 mM EPPS, pH 8.0 and 10% DMA (v/v). After approximately 18 hours at 25° C., the conjugation reaction mixture was purified using a SEPHADEX™ G25 column equilibrated with 10 mM succinate, 250 mM glycine, 0.5% sucrose, 0.01% Tween 20, pH 5.5.

reactant | sulfosuccinimidyl 4-(N-maleimidomethyl)cyclohexane-1-carboxylate | C1CC(CCC1CN2C(=O)C=CC2=O)C(=O)ON3C(=O)CC(C3=O)S(=O)(=O)O | C16H18N2O9S
reactant | Sulfo-SMCC | C1CC(CCC1CN2C(=O)C=CC2=O)C(=O)ON3C(=O)CC(C3=O)S(=O)(=O)[O-].[Na+]
reactant | succinate | 50 mM | C(CCC(=O)[O-])(=O)[O-]
reactant | EDTA | 2 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
solvent | DMA | CC(=O)N(C)C | C4H9NO
solvent | EPPS | 50 mM | C1CN(CCN1CCCS(=O)(=O)O)CCO | C9H20N2O4S
product | SMCC | C1CC(CCC1CN2C(=O)C=CC2=O)C(=O)ON3C(=O)CCC3=O | C16H18N2O6
